US05506256
A) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]pyrrolidine
By the same procedure as in Example 26-D), while using (2S)-1-(tert-butoxycarbonyl)-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]pyrrolidine (2.80 g) and N-(tert-butoxycarbonyl)-L-proline (1.94 g), there was obtained 2.13 g of the title compound.

reactant | (2S)-1-(tert-butoxycarbonyl)-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]pyrrolidine | 2.80 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)Cl)O | C17H24ClNO4
reactant | N-(tert-butoxycarbonyl)-L-proline | 1.94 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]pyrrolidine | 2.13 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)Cl)O)CCC1 | C22H31ClN2O5
